US07517873B2
To a solution of 2.1 g (0.014 mole) of 2-methyl-3-oxo-butanoic acid ethyl ester and 40 mL of dichloroethane was added 1.37 g (0.016 mole) of cyclopentylamine. The mixture was stirred for 1.5 hours, then 4.63 g (0.020 mole) of sodium triacetoxyborohydride and 0.84 g (0.014 mole) of acetic acid were added. The mixture was stirred at room temperature for 24 hours and then quenched by the addition of 50 mL of saturated aqueous sodium bicarbonate. After 20 minutes, the organic layer was separated and the aqueous layer was extracted twice with 30 mL of dichloromethane. The combined organic layers were dried over anhydrous magnesium sulfate, filtered, and concentrated to afford the crude product as yellow oil. Purification of the residue by silica gel chromatography, eluting with hexanes-ethyl acetate (30:70) gave 1.5 g of (rac)-3-cyclopentylamino-2-methyl-butanoic acid ethyl ester.

reactant | 2-methyl-3-oxo-butanoic acid ethyl ester | 0.014 mole, 2.1 g | C(C)OC(C(C(C)=O)C)=O | C7H12O3
reactant | cyclopentylamine | 0.016 mole, 1.37 g | C1(CCCC1)N | C5H11N
reactant | sodium triacetoxyborohydride | 0.020 mole, 4.63 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.014 mole, 0.84 g | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | (rac)-3-cyclopentylamino-2-methyl-butanoic acid ethyl ester | 1.5 g | C(C)OC(C(C(C)NC1CCCC1)C)=O | C12H23NO2
